Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / amoxicillin / hydrocodone
 
Attending: ___
 
Chief Complaint:
R arm and calf numbness
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ yo F w/hx of anxiety who presents with acute onset of right
sided sensory changes to right arm and right leg for whom a code
stroke was called.

Patient reports she was walking around her house when she felt a
tightness in her right calf and then felt like her calf was 
numb.
5 minutes later this was followed by numbness to the ulnar 
aspect
of her right forearm arm anterior and her right deltoid.  She
took an aspirin and had her husband massage her calf, but
progressed a few minutes later to involve her right foot.  Last
known normal was 1430.  She reports symptoms have remained
persistent, and she feels a heaviness in her right foot.  She
explains that the sensory changes feel like "there has been glue
with paper stuck on top of it on my skin".  Denies bowel or
bladder retention and saddle anesthesia. NIHSS on arrival was 1
for sensory changes, with a heart rate of 80 and blood pressure
of 128 systolic, glucose of 90.  CT head was without acute
intracranial process.  CTA head and neck without LVO.  Yesterday
she had headache, right frontal temporal, which made her "feel
like I was drunk ".  She said when she would move around she
would get a throbbing pain in the right temporal area and that
loud noises also made it worse.  No photophobia, emesis, or
vertigo.  She does not believe that it was worse when laying
down, but was laying with her head elevated at an angle as she
has been told in the past not to lay down when she has 
headaches.
Today she reports that she has not had a headache. She reports
that last week she had a cough and upper respiratory cold, but
feels that this is improved.  She also had an outbreak of 
genital
herpes and was placed on valacyclovir on ___. No recent
trauma to her head or neck, but she has been seeing physical
therapy for pain in her right neck and trapezius that she
believes started after she was lifting weights a few months ago. 

Last month she had a C-spine x-ray which showed C5-C6 disc space
narrowing.  Denies shooting pain down arms or legs She has some
ongoing pain in her left elbow from when she bumped a few months
back.

Patient reports that she has had a similar episode of sensory
changes around ___ years ago.  She believes that the same areas of
her body were affected at that time.  She had a CT head and CTA
head and neck which were normal, no MRI that she remembers. 
Symptoms resolved within 24 hours and she was discharged without
new medications.  She has had no further events since until
today.

 
Past Medical History:
HERPES SIMPLEX                                                  
HYPERPLASTIC COLON POLYPS                                       
VITAMIN D DEFICIENCY                                            
MULTINODULAR GOITER                                             
GASTROESOPHAGEAL REFLUX                                         
PREMATURE ATRIAL CONTRACTION                                    
OVARIAN CYSTS                                                   
UTERINE LEIOMYOMA                                               
BILAT RENAL CORTICAL THICKENING   
 
Social History:
___
Family History:
Uncle with a stroke in his ___. No family hx of seizures
 
Physical Exam:
ADMISSION PHYSICAL NOTE:
Vitals: 
Pain 0 
Temp 97.9 
Heart Rate 80 
Blood Pressure 128/81 
RR 16  O2 saturation 100% RA 

General: Awake, cooperative, anxious
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: No nuchal rigidity. Slight decrease ROM on turning head to
right.
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects. Speech was not
dysarthric. Able to follow both midline and appendicular
commands.  There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and ___. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades. Slight
exotropia of right eye on primary gaze
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: 
LT and pinprick 70% of normal over right C5-C6 distribution and
right lateral posterior calf. Reports that her right foot and
toes feel numb subjectively, but no objective difference in
sensation.
No extinction to DSS.
Proprioception intact in ___ large toes

-DTRs:
___ throughout with bilateral pec jerk
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

===
DISCHARGE PHYSICAL EXAM

General: Awake, cooperative, anxious
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: No nuchal rigidity. Slight decrease ROM on turning head to
right.
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects. Speech was not
dysarthric. Able to follow both midline and appendicular
commands.  There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and ___. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades. Slight
exotropia of right eye on primary gaze
V: Facial sensation intact to light touch, cold temp, and 
pinprick
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: intact and equal to light touch, cold temp, and 
pinprick. No extinction to DSS. Proprioception intact @ first 
metatarsal bilaterally.

-DTRs: deferred

___ response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred
 
Pertinent Results:
___ 06:20AM BLOOD WBC-5.5 RBC-3.68* Hgb-10.7* Hct-33.3* 
MCV-91 MCH-29.1 MCHC-32.1 RDW-12.6 RDWSD-41.3 Plt ___
___ 06:20AM BLOOD Glucose-91 UreaN-14 Creat-0.8 Na-141 
K-4.1 Cl-107 HCO3-25 AnGap-9*
___ 04:10PM BLOOD ALT-14 AST-25 AlkPhos-82 TotBili-0.5
___ 06:20AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.1 Cholest-179
___ 06:20AM BLOOD %HbA1c-5.5 eAG-111
___ 06:20AM BLOOD Triglyc-52 HDL-61 CHOL/HD-2.9 LDLcalc-108
___ 04:10PM BLOOD TSH-2.8
___ 04:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-NEG
___ 04:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG fentnyl-NEG

MRI brain without contrast (___):
 
IMPRESSION: 
  
  
1. There is a small focus of FLAIR hyperintensity in the right 
superior 
frontal gyrus (10: 19), nonspecific, likely related to sequelae 
of chronic 
migraine headache versus chronic small vessel ischemic disease. 
2. Otherwise unremarkable noncontrast brain MRI.  No evidence of 
an acute 
infarct, intracranial mass, or hemorrhage. 

MRI C-spine without contrast (___):
IMPRESSION: 
  
  
1. Mild multilevel degenerative changes throughout the cervical 
spine as 
described above, slightly more pronounced at C5-C6 level 
consistent with 
diffuse disc bulge, bilateral uncovertebral hypertrophy causing 
moderate right 
and moderate to severe left-sided neural foraminal narrowing, 
there is no 
evidence of central spinal canal stenosis. 
2. No focal or diffuse lesions are visualized throughout the 
cervical spinal 
cord. 

CTA head and neck (___):

CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal without stenosis, occlusion, or aneurysm. The 
dural venous 
sinuses are patent. 
  
CTA NECK: 
Bilateral carotid and vertebral artery origins are patent. 
There is no evidence of internal carotid stenosis by NASCET 
criteria. 
The carotidandvertebral arteries and their major branches appear 
normal with 
no evidence of stenosis or occlusion. There are minimal 
calcifications of the 
intracranial ICAs bilaterally. 
  
OTHER: 
The visualized portion of the lungs shows an 8 mm ground-glass 
nodule in the 
right upper lobe (3:4), which likely represents a focus of 
infection, however 
is only partially imaged. Recommend obtaining formal CT scan of 
the chest for 
further evaluation. The visualized portion of the thyroid gland 
is within 
normal limits. There is no lymphadenopathy by CT size criteria. 

 
Brief Hospital Course:
___ F w/ anxiety acute onset of right sided sensory changes.

#ATYPICAL MIGRAINE: CTA head and neck and MRI brain did not show 
any evidence of stroke or significant vessel disease. She also 
underwent MRI c-spine which demonstrated C5-6 degenerative 
changes without cord signal abnormality. Her symptoms recovered 
spontaneously without any specific intervention. Therefore, the 
presentation was thought to be due to atypial migraine, as they 
were previously associated with right-sided throbbing headache 
that was worse with loud noises. She was not started on any new 
medications given ABCD score of 0 and low suspicion for TIA.

===
TRANSITIONAL ISSUES:
[ ] Follow-up with neurology in ___ months

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. ValACYclovir 1000 mg PO Q12H 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY  
2.  ValACYclovir 1000 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ATYPICAL MIGRAINE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with right arm and leg numbness. 
There was initially a concern for stroke, in which a blood 
vessel supplying your brain is blocked, resulting in various 
neurological symptoms. However, the imaging of your brain and 
blood vessels in your brain did not reveal any evidence of 
stroke or significant abnormalities. Therefore, as you also had 
throbbing right-sided headache, we believe that your symptoms 
were due to an atypical migraine. We also found signs of tight 
neck muscles, more prominent on the right side of your neck on 
exam, which may have contributed to your headache and symptoms.

We recommend that you start wearing a soft cervical collar at 
night. Please continue swimming as it will help your neck 
arthritis. We also recommend hot packs to your neck muscles when 
you feel they are tight. You mentioned that you have muscle 
cramping occasionally, we recommend drinking tonic water 
periodically for muscle cramping. 

We did not make any changes to your medications, so please take 
with as they have been prescribed previously.

You will be contacted regarding a follow-up appointment within 
the next ___ days. If you do not hear from us, please call 
___ to schedule an appointment within ___ months.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___